US06503907B2
In analogy to example 4.6, Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine and 2-fluoro-biphenyl were converted to yield Allyl-[5-(1-biphenyl-2-yl-1H-indol-5-yl)-pentyl]-methyl-amine as light yellow oil, MS: 409 (MH+).

reactant | Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine | C(C=C)N(C)CCCCCC=1C=C2C=CNC2=CC1 | C17H24N2
reactant | 2-fluoro-biphenyl | FC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9F
product | Allyl-[5-(1-biphenyl-2-yl-1H-indol-5-yl)-pentyl]-methyl-amine | C(C=C)N(C)CCCCCC=1C=C2C=CN(C2=CC1)C1=C(C=CC=C1)C1=CC=CC=C1 | C29H32N2
